US07425631B2
Step A. Preparation of (4-amino-chroman-7-yl)-acetonitrile.
To a 125 mL flame dry 3-neck round bottom flask was added P(Ph)3 (4.4 g, 16.74 mmol) and THF (50 mL). After cooling to −20° C., DEAD (3.3 mL, 16.74 mmol) was added dropwise via the addition funnel. After stirring for 20 min at −20° C., (4-aminochroman-7-yl)-methanol (2.0 g, 11.16 mmol) in THF (75 mL) was added dropwise via the addition funnel. It was stirred for another 30 min. acetone cyanohydrin (3.1 mL, 33.48 mmol) was then added dropwise via the addition funnel. The resulting mixture was warmed to RT and stirred for 18 h. Solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel. Elution with CH2Cl2:MeOH mixture (95:5) gave final compound. MS m/z: 189.12 (M+H). Calc'd. for C11H12N2O-188.23.

reactant | P(Ph)3 | 16.74 mmol, 4.4 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 16.74 mmol, 3.3 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (4-aminochroman-7-yl)-methanol | 11.16 mmol, 2.0 g | NC1CCOC2=CC(=CC=C12)CO | C10H13NO2
reactant | acetone cyanohydrin | 33.48 mmol, 3.1 mL | CC(C#N)(O)C | C4H7NO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-amino-chroman-7-yl)-acetonitrile | NC1CCOC2=CC(=CC=C12)CC#N | C11H12N2O
